US07211275B2
The gelatin mixture was crosslinked with either glutaraldehyde or N-Ethyl-N′-(3-dimethylaminopropyl)carbodiimide hydrochloride (EDAC; Sigma) and N-hydroxysuccinimide (NHS; Sigma). Glutaraldehyde bridges the amino groups on gelatin to form an imine linkage whereas EDAC/NHS catalyzes the reaction between a carboxyl group and an amino group to form an amide linkage. In the case of crosslinking by glutaraldehyde, 20 μl of a 25 w/v % glutaraldehyde solution in water was added to the gelatin solution, resulting in a glutaraldehyde concentration of 10 w/w % of the gelatin. The gel was left to set at room temperature for 3 hours. The composite gels thus formed were removed from the chamber slide and washed 3 times with 5 w/w % glycine in water. The function of glycine was to cap any unreacted glutaraldehyde, which is highly cytotoxic. The glycine washes were followed by 3 water washes. All washes were at 37° C. and were at least 1 hour in length. Crosslinking by EDAC/NHS was conducted by adding 50 μl of 0.70 mM NHS and 50 μl of 0.98 mM EDAC to 0.5 ml of the gelatin suspension in the chamber. Crosslinking was allowed to proceed at room temperature for 2 hours, after which the composite gels were rinsed 3 times with water to remove unreacted EDAC/NHS and urea, which was the non-toxic side product.

reactant | glutaraldehyde | C(CCCC=O)=O | C5H8O2
reactant | N-Ethyl-N′-(3-dimethylaminopropyl)carbodiimide hydrochloride | Cl.C(C)N=C=NCCCN(C)C
reactant | N-hydroxysuccinimide | ON1C(CCC1=O)=O | C4H5NO3
product | EDAC NHS | Cl.C(C)N=C=NCCCN(C)C.ON1C(CCC1=O)=O | InChI=1S/C8H17N3.C4H5NO3.ClH/c1-4-9-8-10-6-5-7-11(2)3;6-3-1-2-4(7)5(3)8;/h4-7H2,1-3H3;8H,1-2H2;1H
